US05175157
3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride
660 mg (2 mmol) of 3-[(hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one and 540 mg (2.2 mmol) of 2-(3,4-dimethoxyphenyl)-ethylbromide are refluxed for 1 hour in 3 ml of triethylamine. The reaction mixture is cooled and taken up in methylene chloride and 2-molar sodium hydroxide solution. The alkaline phase is separated off and extracted twice with methylene chloride. The combined organic phases are dried over magnesium sulphate and evaporated down in vacuo. Purification is carried out by column chromatography over 100 g of aluminium oxide (activity II, eluant: methylene chloride+0.3% ethanol). The fractions obtained are concentrated by evaporation in vacuo, the residue is dissolved in acetone and the hydrochloride is precipitated using ethereal hydrochloric acid.

reactant | 3-[(hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-one | 2 mmol, 660 mg | N1CC(CCCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | C19H28N2O3
reactant | 2-(3,4-dimethoxyphenyl)-ethylbromide | 2.2 mmol, 540 mg | COC=1C=C(C=CC1OC)CCBr | C10H13BrO2
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
solvent | sodium hydroxide | 2-molar | [OH-].[Na+]
product | 3-[(N-(2-(3,4-Dimethoxy-phenyl)-ethyl)-hexahydro-azepin-3-yl)-methyl]-7,8-dimethoxy-1,3,4, 5-tetrahydro-2H-3-benzazepin-2-one-hydrochloride | Cl.COC=1C=C(C=CC1OC)CCN1CC(CCCC1)CN1CCC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C29H40N2O5.ClH/c1-33-25-9-8-21(15-26(25)34-2)10-13-30-12-6-5-7-22(19-30)20-31-14-11-23-16-27(35-3)28(36-4)17-24(23)18-29(31)32;/h8-9,15-17,22H,5-7,10-14,18-20H2,1-4H3;1H
